US04886814
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine
1 g (0.0027 mol) of N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine is dissolved in 5 ml of methanol and stirred with 5 ml of concentrated ammonia at room temperature for 3 hours. The mixture is then diluted with water and extracted with methylene chloride. The extract is dried over sodium sulphate, concentrated and purified on a silica gel column using ethyl acetate/methanol=9:1 as eluant.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | 0.0027 mol, 1 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C)O | C18H24N2O4S
reactant | ammonia | 5 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | NC(=O)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C)O | C17H23N3O3S
